data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1C=C(C=C(C1=CC=C(C)CCC=C(C)C)O)CCCCC.[OH2:10].[Cl-]>>[H:20][OH2+:10].CCCCCC1=CC(=[O:21])C(=CC=C(C)CCC=C(C)C)C(=C1)O.[Cl-] 10=20;20,21=21
CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:20](C2=CC=CO2)([C:21]3=[N+](N=C4N3C(CC4F)C(C)C)C5=C(C(=C(C(=C5F)F)F)F)F)[O-:10].[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C>>CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:20](=[O:10])C2=CC=CO2.CC(C)C1CC(C2=N[N+](=[C-:21]N12)C3=C(C(=C(C(=C3F)F)F)F)F)F.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C 10=20;20,21=21
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CC)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.CCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C([CH:22]=[CH:21]4)(OC)OC.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
CC(=O)[O-:10].C[N+:21]12CCC[CH:20]1C2.[Cl-]>>CC(=O)[O:10][CH:20]1CCC[N:21](C1)C.[Cl-] 10=20;20,21=21
CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OC[CH:20]([NH:10]C(CC#N)CC3=CNC4=CC=CC=C43)[OH2+:21].C1=CC2=C(C=C1)NC=C2CC(CC#N)N>>CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OC[CH:20]=[NH+:10]C(CC#N)CC3=CNC4=CC=CC=C43.[OH2:21].C1=CC2=C(C=C1)NC=C2CC(CC#N)N 10=20;20,21=21
[CH:10]1=[CH:11]OC(=C1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=C(O[CH+:11][CH:10]1[S:20](=O)(=O)O)S(=O)(=O)O 10,11=10,20
[H:20][O+:21](CC)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC[O:21][Si-](C)(C)(C)Cl 10=20;20,21=21
CC[NH2+:21][C:20](C)(O)[OH:10]>>CC[NH2:21].C[C:20](=[OH+:10])O 10=20;20,21=21
[H:20][O:21]C(=O)C.CC12CCC(=[N+]3CCCC3C(=O)[O-])CC1(CCC2=O)[O-:10]>>[H:20][O:10]C12CCC(=O)C1(CCC(=[N+]3CCCC3C(=O)[O-])C2)C.CC(=O)[O-:21] 10=20;20,21=21
COC12CCC(CC1(C3=CC4=C(C=CC5=C4C=CC=C5)C=C3)[O-:10])C=C2.[Mg+:20]Br>>COC12CCC(CC1(C3=CC4=C(C=CC5=C4C=CC=C5)C=C3)[O:10][Mg:20]Br)C=C2 10=20,
[H:20][C:21]1(C=C(O[CH+:22]1)C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1[N+](=O)[O-])C(F)(F)F 10=20;20,21=21,22
CC[O-:10].CC(C)[CH:20](C)[Br:21]>>CC[O:10][CH:20](C)C(C)C.[Br-:21] 10=20;20,21=21
C[S:10](C)(O)[I:11]>>C[S+:10](C)O.[I-:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.[C-:10]#N.CC1=CC2C3CC1CC3CC2C(C)C.CC(=O)O.[Na+]>>[H:20][C:10]#N.OS(=O)(=O)[O-:21].CC1=CC2C3CC1CC3CC2C(C)C.CC(=O)O.[Na+] 10=20;20,21=21
CC(=O)CC[C:20](=[O:21])C.C(CO)[NH2:10].CC(=O)O>>CC(=O)CC[C:20](C)([NH2+:10]CCO)[O-:21].CC(=O)O 10=20;20,21=21
C[CH2:20][Br:21].CN(C)[C:11](=[CH2:10])[O-:12]>>C[CH2:20][CH2:10][C:11](=[O:12])N(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
C[S+:20](C)Br.[OH2:10]>>C[S:20](C)([OH2+:10])Br 10=20,
[B:20]1(OC(C(O1)(C)C)(C)C)CC=CC.C1=CC=C(C=C1)C=[O:10]>>[B-:20]1(OC(C(O1)(C)C)(C)C)(CC=CC)[O+:10]=CC2=CC=CC=C2 10=20,
CC(C(=C)C(=O)OC)O[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[Br:11].C1CC(=O)NC1=O>>CC(C(=C)C(=O)OC)O[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:11].C1CC(=O)NC1=O 10,11=11
[Li+:20].CC(C)C(C(CC=C)CC=C)[O-:10]>>[Li:20][O:10]C(C(C)C)C(CC=C)CC=C 10=20,
CCOC(=O)C[CH2:20][Cl:21].[C-:10]#N>>CCOC(=O)C[CH2:20][C:10]#N.[Cl-:21] 10=20;20,21=21
[H:10][BH3-:11].CCC[C:20](=[O+:21][Na])OCCC>>[H:10][C:20](CCC)(OCCC)[O:21][Na].[BH3:11] 10,11=10,20;20,21=21
[H:20][Br:21].COCC[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]CCOC.[Br-:21] 10,11=10,20;20,21=21
[H:20][O+:21](CC1=C(C(=C2C(=C1)C=C(C=C2OC)OC)OC)Br)P(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)N(C(=O)OCC)NC(=O)OCC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-:10])OCC3=CC=CC=C3)OC>>[H:20][O:10]C(=O)C1=C(C2=C(C=C(C=C2C=C1OCC3=CC=CC=C3)OC)OC)OC.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CC4=C(C(=C5C(=C4)C=C(C=C5OC)OC)OC)Br 10=20;20,21=21
[H:20][C:21]1(C=CC=C([C+:22]1OC)Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:22]1=[C:21](C=CC=C1Br)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][O+:21]=C1CCN(C(C1)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.[OH2:10].CCO.C(CO)O.[Cl-]>>[H:20][OH2+:10].C1CN(C(CC1=[O:21])CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.C(CO)O.[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC(=O)C1CCC(CC1)([OH:10])OCCO>>[H:20][OH+:10]C1(CCC(CC1)C(=O)OC)OCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CC=[O:10]>>[H:20][O+:10]=CC.[OH2:21] 10=20;20,21=21
[H:20][O:21][CH+:22]C.C[O-:10]>>[H:20][O:10]C.C[CH:22]=[O:21] 10=20;20,21=21,22
[CH:20](=[SH+:21])[NH2:10]>>[CH:20](=[NH2+:10])[SH:21] 10=20;20,21=21
CC([CH2:20][Br:21])[O-:10]>>CC1[CH2:20][O:10]1.[Br-:21] 10=20;20,21=21
[H:20][O+:21](C1(CCC2C1O2)C#C)S(C3=CC=CC=C3)(C4=CC=CC=C4)OC(C5=CC=CC=C5)(C(F)(F)F)C(F)(F)F.C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(C1=CC=CC=C1)(C(F)(F)F)C(F)(F)F.C#CC1(CCC2C1O2)[O:21]S(C3=CC=CC=C3)(C4=CC=CC=C4)OC(C5=CC=CC=C5)(C(F)(F)F)C(F)(F)F 10=20;20,21=21
[H:20][O+:21]=C(CC1=CC(=CC=C1)Br)OC.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].COC(=[O:21])CC1=CC(=CC=C1)Br.CO.[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)C.C1=CC=C(C=C1)C(CCC(=O)C2=CC=CO2)([NH2+]CC(=O)O)[O-:10]>>[H:20][O:10]C(CCC(=O)C1=CC=CO1)(C2=CC=CC=C2)[NH2+]CC(=O)O.CC(=O)[O-:21] 10=20;20,21=21
CC#CCO[Si:20](C)(C)C.[F-:10]>>CC#CCO[Si-:20](C)(C)(C)[F:10] 10=20,
[H:20][O:21]C(=O)C.CC(N(C)C1=CC=CC=C1)[OH:10]>>[H:20][OH+:10]C(C)N(C)C1=CC=CC=C1.CC(=O)[O-:21] 10=20;20,21=21
